US05709911
First, 27.4 g of (methoxymethyl)triphenylphosphonium chloride, 9 g of potassium t-butoxide, and 225 ml of dry ether were placed in a 500 ml flask whose content was replaced with argon. The mixture was stirred for 30 minutes under ice water cooling. Then, 50 ml of an ether solution containing 16.8 g of 4-(2,3-difluorophenyl)cyclohexanone was added dropwise to the reaction mixture. The reaction mixture was stirred under ice water cooling for 30 minutes and at room temperature for 8 hours. Thereafter, a precipitate was filtered out. The filtrate was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled away. Thereafter, the residue was purified by silica gel column chromatography (eluent: toluene/hexane=1/4) to obtain 17.1 g of 1-(2,3-difluorophenyl)-4-methoxymethylene cyclohexane (Y: 89.7%). The compound thus obtained had a purity of 99.2% by GC.

reactant | (methoxymethyl)triphenylphosphonium chloride | 27.4 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 9 g | CC(C)([O-])C.[K+]
reactant | 4-(2,3-difluorophenyl)cyclohexanone | 16.8 g | FC1=C(C=CC=C1F)C1CCC(CC1)=O | C12H12F2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 225 ml | CCOCC | C4H10O
product | 1-(2,3-difluorophenyl)-4-methoxymethylene cyclohexane | 17.1 g, 89.7% | FC1=C(C=CC=C1F)C1CCC(CC1)=COC | C14H16F2O
